US06448242B1
1,3-Dibromopropane (1.0 ml; 9.9 mmol) and potassium carbonate (2.0 g; 15 mmol) were added to a solution of 1-formylpiperazine (2.5 g; 22 mmol) in dimethylformamide (5 ml), and the mixture was stirred for 20 hours in a bath controlled at 60° C. Water was added to the reaction mixture to conduct extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 2.13 g (yield: 81%) of 1,3-bis(4-formyl-1-piperazinyl)propane as a colorless oil.

reactant | 1,3-Dibromopropane | 9.9 mmol, 1.0 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 15 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-formylpiperazine | 22 mmol, 2.5 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | Water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,3-bis(4-formyl-1-piperazinyl)propane | 2.13 g, yield: 81% | C(=O)N1CCN(CC1)CCCN1CCN(CC1)C=O | C13H24N4O2
